US05059611
3-(2-Trimethylsilyl-4-furyl)propan-1-al is treated with (triphenylphosphoranylidene) acetaldehyde in tetrahydrofuran to give 5-(2-trimethylsilyl-4-furyl)pent-2-en-1-al which is hydrogenated in the presence of a palladium catalyst to give 5-(2-trimethylsilyl-4-furyl)pentan-1-al. Treating this intermediate with C9H19COCH2PO(OCH3)2 and sodium hydride in tetrahydrofuran gives 3-(7-oxo-5-hexadecenyl)-5-trimethylsilylfuran and oxidizing gives 4-(7-oxo-5-hexadecenyl)-5-hydroxy-2(5H)-furanone.

reactant | 3-(2-Trimethylsilyl-4-furyl)propan-1-al | C[Si](C=1OC=C(C1)CCC=O)(C)C | C10H16O2Si
reactant | (triphenylphosphoranylidene) acetaldehyde | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-trimethylsilyl-4-furyl)pent-2-en-1-al | C[Si](C=1OC=C(C1)CCC=CC=O)(C)C | C12H18O2Si
